US07557112B2
n-butyllithium was added to a diethyl ether solution of 1-bromo-4-chloro-5-fluoro-2-(methoxymethoxy)benzene in a dry ice-acetone bath and stirred for one hour. The reaction solution was added to a mixture of dry ice and diethyl ether and stirred for two hours to give lithium 4-chloro-5-fluoro-2-(methoxymethoxy)benzoate. Phosphorus oxychloride was added to a mixture of the obtained lithium 4-chloro-5-fluoro-2-(methoxymethoxy)benzoate, 3-aminothiophene-2-carboxamide and pyridine in a MeOH ice bath and stirred for one hour to give 3-{[4-chloro-5-fluoro-2-(methoxymethoxy)benzoyl]amino}thiophene-2-carboxamide.

reactant | Phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | lithium 4-chloro-5-fluoro-2-(methoxymethoxy)benzoate | ClC1=CC(=C(C(=O)[O-])C=C1F)OCOC.[Li+]
reactant | 3-aminothiophene-2-carboxamide | NC1=C(SC=C1)C(=O)N | C5H6N2OS
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-{[4-chloro-5-fluoro-2-(methoxymethoxy)benzoyl]amino}thiophene-2-carboxamide | ClC1=CC(=C(C(=O)NC2=C(SC=C2)C(=O)N)C=C1F)OCOC | C14H12ClFN2O4S
